US08003649B2
Reductive amination of 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine with 3-formylbenzonitrile was carried out according to General Synthetic Method 9. The crude product was purified by hplc using a Waters XBridge Prep C18 OBD column, 5μ silica, 30 mm diameter, 100 mm length eluted with decreasingly polar mixtures of water (containing 0.1% aqueous ammonia) and acetonitrile as eluents to give 3-[[4-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl]piperazin-1-yl]methyl]benzonitrile.

reactant | 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine | N1(CCNCC1)C=1C=CC=2N(C1)C(=NN2)C(F)(F)F | C11H12F3N5
reactant | 3-formylbenzonitrile | C(=O)C=1C=C(C#N)C=CC1 | C8H5NO
product | 3-[[4-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl]piperazin-1-yl]methyl]benzonitrile | FC(C1=NN=C2N1C=C(C=C2)N2CCN(CC2)CC=2C=C(C#N)C=CC2)(F)F | C19H17F3N6
